US07842696B2
LiOH (80 mg, 1.9 mmol) was added to a stirred solution of 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (130 mg, 0.6 mmol) in THF:H2O (1:1, 4 mL), and the resulting mixture was stirred at room temperature for 45 min. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added and acidified it with 10% aqueous HCl, filtered the solid precipitated to afford 40 mg (35.4% yield) of 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid. 1H NMR (DMSO-d6): δ 13.4 (bs, 1H), 9.4 (s, 1H), 8.0 (d, 2H), 7.7 (t, 2H), 7.6 (t, 1H).

reactant | LiOH | 1.9 mmol, 80 mg | [Li+].[OH-]
reactant | 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 0.6 mmol, 130 mg | C(C)OC(=O)C=1N=NN(C1)C1=CC=CC=C1 | C11H11N3O2
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | THF H2O | 4 mL | C1CCOC1.O
product | 1-phenyl-1H-[1,2,3]triazole-4-carboxylic acid | 40 mg, 35.4% yield | C1(=CC=CC=C1)N1N=NC(=C1)C(=O)O | C9H7N3O2
